US09227976B2
Step 2: 2-(2-methyl-5-phenyl-pyrazol-3-yl)isoindoline-1,3-dione
Sodium hydride (830 mg, 0.02 mol) was added portionwise to a mixture of 2-(3-phenyl-1H-pyrazol-5-yl)isoindoline-1,3-dione (5 g, 0.0173 mol) and methyl iodide (1.5 mL, 0.024 mol) in DMF (80 mL) at 10° C. The reaction mixture was stirred at room temperature for 16 h. The reaction mixture was diluted with water and the aqueous phase was extracted with ethyl acetate twice. The combined organic phases were dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (silica gel, ethyl acetate/isohexane 1:19 to 2:8) yielding a mixture of the title compound and the regioisomer 2-(2-methyl-5-phenyl-pyrazol-3-yl)isoindoline-1,3-dione (850 mg, 5:1).

reactant | Sodium hydride | 0.02 mol, 830 mg | [H-].[Na+]
reactant | 2-(3-phenyl-1H-pyrazol-5-yl)isoindoline-1,3-dione | 0.0173 mol, 5 g | C1(=CC=CC=C1)C1=NNC(=C1)N1C(C2=CC=CC=C2C1=O)=O | C17H11N3O2
reactant | methyl iodide | 0.024 mol, 1.5 mL | CI | CH3I
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(2-methyl-5-phenyl-pyrazol-3-yl)isoindoline-1,3-dione | CN1N=C(C=C1N1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C18H13N3O2
